US07759337B2
Synthesis of N-Cyclopropyl-4-methyl-3-[1-(morpholin-4-ylcarbonyl)phthalazin-6-yl]benzamide
3-(1-Cyanophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (115 mg, 350 μmol) was dissolved in EtOH/water (1:1) (3.50 mL) with potassium hydroxide (39 mg, 700 μmol) and heated in a microwave oven for 15 min at 120° C. The reaction mixture was concentrated in vacuo and dissolved in DMF (700 μl) and morpholine (152 μl, 1751 μmol) to which HATU (399 mg, 1051 μmol) was added. The reaction was stirred at RT for 16 h, then diluted with ethyl acetate, filtered, diluted with 50 mL ethyl acetate, and partitioned with sodium bicarbonate (saturated, aqueous). The organic layers were washed 2×20 mL with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, concentrated in vacuo, and purified by flash chromatography to give the title compound. MS (ES+): 417 (M+H)+.

reactant | 3-(1-Cyanophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 350 μmol, 115 mg | C(#N)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C20H16N4O
reactant | potassium hydroxide | 700 μmol, 39 mg | [OH-].[K+]
reactant | morpholine | 1751 μmol, 152 μl | N1CCOCC1 | C4H9NO
reactant | HATU | 1051 μmol, 399 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | EtOH water | 3.50 mL | CCO.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropyl-4-methyl-3-[1-(morpholin-4-ylcarbonyl)phthalazin-6-yl]benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)C(=O)N1CCOCC1)=O | C24H24N4O3
